US07378427B2
N-(2′-Acetyl-biphenyl-2-yl)-4-methoxy-benzenesulfonamide
N-(2-Bromo-phenyl)4-methoxy-benzenesulfonamide (0.34 g, 0.99 mmol) was dissolved in dimethoxyethane (4 mL) and tetrakis(triphenylphosphine)palladium (0) (0.23 g, 0.2 mmol) was added. 2-acetylphenylboronic acid (0.16 g, 0.99 mmol), dissolved in ethanol (1 mL), was added, followed by aqueous sodium carbonate (4.2 mL, 2 M). The reaction mixture was heated at 100° C. for 14 hours. The mixture was diluted with a saturated, aqueous sodium chloride solution (200 mL) and extracted with dichloromethane (4×30 mL). The combined organic extracts were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to yield a residue. The crude product was purified by silica gel chromatography (1:9 to 3:7 ethyl acetate:hexane) to afford the title product.

reactant | N-(2-Bromo-phenyl)4-methoxy-benzenesulfonamide | 0.99 mmol, 0.34 g | BrC1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC | C13H12BrNO3S
reactant | 2-acetylphenylboronic acid | 0.99 mmol, 0.16 g | C(C)(=O)C1=C(C=CC=C1)B(O)O | C8H9BO3
reactant | sodium carbonate | 2 M, 4.2 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | 200 mL | [Cl-].[Na+]
solvent | dimethoxyethane | 4 mL | C(OC)COC | C4H10O2
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.2 mmol, 0.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2′-Acetyl-biphenyl-2-yl)-4-methoxy-benzenesulfonamide | C(C)(=O)C1=C(C=CC=C1)C1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC | C21H19NO4S
